US07947683B2
4-methyl-3-(4-penten-1-yl)-5-(phenylmethyl)-4H-1,2,4-triazole
The title compound was prepared in analogy to Preparation 11 in 0.18 g yield starting from phenylacetic hydrazide (0.5 g) and N,N′-dimethyl-5-hexenimidamide hydrochloride (0.62 g). MS (m/z): 242 [MH]+.

reactant | phenylacetic hydrazide | 0.5 g | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
reactant | N,N′-dimethyl-5-hexenimidamide hydrochloride | 0.62 g | Cl.CNC(CCCC=C)=NC
product | 4-methyl-3-(4-penten-1-yl)-5-(phenylmethyl)-4H-1,2,4-triazole | CN1C(=NN=C1CC1=CC=CC=C1)CCCC=C | C15H19N3
